US04199582
In 50 ml. of ethanol was dissolved a mixture of 2 g. of 6-morpholino-3,4-dihydro-1(2H)-naphthalenone hydrochloride, 4 g. of 1-benzhydrylpiperazine hydrochloride and 4 g. of a 37% aqueous solution of formalin. The solution was allowed to stand at room temperature for 10 days, after which it was neutralized with an aqueous solution of sodium hydrogen carbonate and extracted with 100 ml. of chloroform. The extract was dried over anhydrous sodium sulfate and the solvent was distilled off under reduced pressure. By the above procedure there was obtained 5 g. of 2-[(4-benzhydryl-1-piperazinyl)methyl]-6-morpholino-3,4-dihydro-1(2H)-naphthalenone as colorless oil. IRνc=o neat 1665 cm-1. This oil was dissolved in 50 ml. of methanol and stirred with 3 g. of sodium borohydride at room temperature for 30 minutes. The reaction mixture was diluted with 500 ml. of water and extracted with 150 ml. of chloroform. The extract was dried and distilled under reduced pressure to remove the solvent, whereupon 4.5 g. of 2-[(4-benzhydryl-1-piperazinyl)methyl]-6-morpholino-1,2,3,4-tetrahydro-1-naphthalenol was obtained as an oil. A portion of this oil was purified by chromatography on a column of silica gel and lead to its fumarate melting at 184°-187° C.(decomposition).

reactant | 6-morpholino-3,4-dihydro-1(2H)-naphthalenone hydrochloride | Cl.O1CCN(CC1)C=1C=C2CCCC(C2=CC1)=O
reactant | 1-benzhydrylpiperazine hydrochloride | Cl.C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CCNCC1
reactant | formalin | C=O | CH2O
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | 2-[(4-benzhydryl-1-piperazinyl)methyl]-6-morpholino-3,4-dihydro-1(2H)-naphthalenone | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CCN(CC1)CC1C(C2=CC=C(C=C2CC1)N1CCOCC1)=O | C32H37N3O2
reactant | sodium borohydride | [BH4-].[Na+]
solvent | methanol | CO | CH4O
solvent | ethanol | C(C)O | C2H6O
product | 2-[(4-benzhydryl-1-piperazinyl)methyl]-6-morpholino-1,2,3,4-tetrahydro-1-naphthalenol | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CCN(CC1)CC1C(C2=CC=C(C=C2CC1)N1CCOCC1)O | C32H39N3O2
